US06506747B1
Synthesis of [4-(5-Cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2,6-dimethylbenzyl)-amine
To a stirred solution of 1-(4-aminophenyl)-3-(3-pyridyl)-5-cyanopyrazole (130 mg, 0.5 mmol) and 2,6-dimethylbenzaldehyde (0.9 g) in acetic acid (2 mL) and MeOH (5 mL) at room temperature was added sodium cyanoborohydride (79 mg, 1.25 mmol). The reaction mixture was stirred at room temperature for 18 hr and then concentrated under a stream of nitrogen, diluted with water, extracted into ethyl acetate, washed with sodium bicarbonate solution, water and dried (MgSO4). The residue obtained on concentration was flash chromatographed on silica gel (elution with a gradient of 15-25% EtOAc in CH2Cl2) providing the title compound (142 mg, 75%). NMR (CDCl3, 400 MHz): 9.1 (s, 1H); 8.7 (br, 1H); 8.3 (d, 1H); 7.6 (d, 2H), 7.5 (m, 1H), 7.35 (s, 1H); 7.2 (m, 1H), 7.1 (overlapping m, 2H), 6.8 (d, 2H), 4.3 (s, 2H), 2.4 (s, 6H).

reactant | 1-(4-aminophenyl)-3-(3-pyridyl)-5-cyanopyrazole | 0.5 mmol, 130 mg | NC1=CC=C(C=C1)N1N=C(C=C1C#N)C=1C=NC=CC1 | C15H11N5
reactant | 2,6-dimethylbenzaldehyde | 0.9 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | sodium cyanoborohydride | 1.25 mmol, 79 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 5 mL | CO | CH4O
product | [4-(5-Cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2,6-dimethylbenzyl)-amine | 142 mg, 75% | C(#N)C1=CC(=NN1C1=CC=C(C=C1)NCC1=C(C=CC=C1C)C)C=1C=NC=CC1 | C24H21N5
